US08710242B2
tert-Butyl 4-formyl-3-hydroxybenzoate
A solution of 4-formyl-3-hydroxybenzoic acid (1 g, 6.0 mmol) was dissolved in tetrahydrofuran (10 ml) and heated under reflux. Then N,N-dimethylformamide di-tert-butyl acetal was added dropwise (5.77 ml, 24.0 mmol) and the mixture was stirred at the temperature for 1.5 h. The cooled solution was concentrated under reduced pressure and the residue chromatographed on silica gel with cyclohexane/ethyl acetate as the eluent (gradient=1 hour from 0% ethyl acetate to 5% ethyl acetate).

reactant | 4-formyl-3-hydroxybenzoic acid | 6.0 mmol, 1 g | C(=O)C1=C(C=C(C(=O)O)C=C1)O | C8H6O4
reactant | N,N-dimethylformamide di-tert-butyl acetal | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | tert-Butyl 4-formyl-3-hydroxybenzoate | C(=O)C1=C(C=C(C(=O)OC(C)(C)C)C=C1)O | C12H14O4
